US07361682B2
b) Step 2: 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid
A mixture of 2.05 g (6 mmol) 5-(1-Isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid ethyl ester and 0.299 g (7 mmol) lithiumhydroxide monohydrate 30 ml THF, 30 ml methanol and 15 ml water was heated to 100° C. for 2 h. The organic solvents were removed and aq. 1N HCl was added to adjust the pH of the solution to 2-3. Subsequently, the mixture was evaporated to dryness and the mixture was used without further purification in the next step. MS (m/e): 289.1 (MH+, 100%).

reactant | 5-(1-Isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid ethyl ester | 6 mmol, 2.05 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC1CN(CC1)C(C)C | C18H24N2O3
reactant | lithiumhydroxide monohydrate | 7 mmol, 30 ml, 0.299 g | O.[OH-].[Li+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid | C(C)(C)N1CC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C16H20N2O3
